Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
___ year old male admitted for weight reduction surgery.
 
Major Surgical or Invasive Procedure:
Status Post Laparoscopic Gastric Bypass

 
History of Present Illness:
___ has class III morbid obesity with weight of 328.1 lbs as of
___ (initial screen weight on ___ was 326.6 lbs), height
of 67.5 inches and BMI of 51.4. Previous weight loss efforts 
have
included 6 months of HMR in ___ losing 30 pounds that he
maintained for 6 months, 3 months Nutrisystem in ___ losing 30
pounds that he also maintained for 6 months, as well as one week
a Weight Watchers, one week ___ without results and 6
months of prescription weight loss medication Xenical without
results.  He also did ___ounseling again without 
any
results.  ___ participated in the ___ Luck
Ahead Study where his weight dropped to 280 pounds.  He has not
used over-the-counter ephedra-containing appetite
suppressant/herbal supplements. His weight at age ___ was 200
pounds his lowest adult weight with his highest weight being his
current weight of 328 pounds.  His weight one year ago was 310
pounds.  He states he developed a significant weight problem at
the age of ___ especially when he quit smoking.  Factors
contributing to his excess weight include large portions, late
night eating, too many carbohydrates, stress, emotional, nervous
and compulsive eating with occasional binging as well as lack of
exercise although he likes to walk 20 to 30 minutes 3 times a
week. 
 
Past Medical History:
type 2 diabetes, dyslipidemia, obstructive sleep apnea on CPAP, 
osteoarthritis/DJD, history of gout (left big toe), fatty  
liver, colonic polyps and hematuria.  

 
Social History:
___
Family History:
 His family history is noted for
father deceased at age ___ of cancer and diabetes; mother living
age ___ with arthritis and obesity. 
 
Physical Exam:
His blood pressure was 123/75, pulse 82 and O2 sat 97% on room
air.  On physical examination ___ was casually dressed, 
pleasant
and in no apparent distress. His skin is tanned, warm, dry with
no rashes, there were multiple skin tags. Sclerae were 
anicteric,
conjunctiva clear, pupils were equal round and reactive to 
light,
fundi with sharp optic disks and no evidence of retinopathy,
mucous membranes were moist, tongue was pink and the oropharynx
was without exudates or hyperemia.  Trachea was in the midline
and the neck was supple with full range of motion, no 
adenopathy,
thyromegaly or carotid bruits.  Chest was symmetric and the 
lungs
were clear to auscultation bilaterally with good air movement. 
Cardiac exam was noted for regular rate and rhythm, normal S1 
and
S2, no murmurs, rubs or gallops.  The abdomen was obese but soft
and non-tender, non-distended with normal bowel sound activity
and no appreciable masses, there was a well-healed right lower
quadrant vertical incision scar, no hernias.  Spinal curvature
was normal with no spinal tenderness or flank pain.  Lower
extremities were noted to trace edema of the left and mild 
venous
insufficiency/varicosity, there was no clubbing.  There is no
evidence of joint swelling or inflammation of the joints.  There
were no focal neurological deficits, gait was normal.

 
Pertinent Results:
___ 06:52AM BLOOD WBC-7.8# RBC-4.25* Hgb-12.1* Hct-36.4* 
MCV-86 MCH-28.4 MCHC-33.1 RDW-15.0 Plt ___
___ 02:23PM BLOOD Hct-37.0*
___ 06:52AM BLOOD Glucose-133* UreaN-9 Creat-0.8 Na-137 
K-4.1 Cl-102 HCO3-28 AnGap-11
___ 06:52AM BLOOD CK(CPK)-1060*
___ 06:52AM BLOOD CK-MB-9 cTropnT-<0.01
___ 06:52AM BLOOD Calcium-8.4 Phos-3.1 Mg-1.8

___ Upper Gi Status post gastric bypass without evidence of 
leak or 
obstruction. Slow emptying into the jejunum likely represents 
postoperative edema. 

___ Chest X-ray

Left retrocardiac atelectasis is moderate, more prominent than 
on the right side. There is no volume overload. The 
cardiomediastinal silhouette is enlarged, probably due to 
mediastinal lipomatosis. Lungs are otherwise clear and hilar 
contours are normal. There is no pleural effusion. 

 
Brief Hospital Course:
Patient underwent a laparoscopic gastric bypass without 
complications. Postoperatively he had chest pain that resolved 
quickly with no signs or symptoms of cardiac involvement. EKG 
and cardiac enzymes were negative for myocardial infarction. On 
postoperative day 2 some erythema noted around midabdominal port 
sites. Ancef started.

Patient was supported by intravenous fluids and pain medication 
throughout hospital course. He was progressed from a bariatric 
stage one to stage 3 diet without nausea or vomiting. Erythema 
on abdominal wall looks like it is resolving.

Currently patient is doing very well. On a stage 3 diet with 
stable blood sugars and ambulating independently. We will 
discharge home today.

Follow up Plans:
1. Resolving Cellulitis - will send home with keflex liquid ___ 
qid for 7 days. Will follow up with Dr. ___ in ___ 
clinic on ___.

2. Diabetes - throughout hospital course blood sugars have been 
relatively stable. Will have patient continue to check his blood 
sugars four times a day at home and log. Will give ___ of his 
metformin dose and hold his glucotrol for now to avoid 
hypoglycemia. Will have patient follow up with his primary care 
in one week to adjust his diabetic regimen.

3. Obstructive Sleep Apnea - Patient used his personal CPAP 
machine in hospital. His oxygen saturations have been stable. 
 
Medications on Admission:
Lantus insulin 80 units at bedtime,  
Metformin 1000 mg twice a day, Glucotrol 10 mg twice a day for  
diabetes; Cozaar 10 mg daily for renal prophylaxis; Lipitor 10 
mg  
daily for hyperlipidemia; Ecotrin 325 mg for cardiac 
prophylaxis;  
and nutritional supplements ascorbic acid, B complex vitamins,  
vitamin B12, iron, coenzyme Q10, pyridoxine, vitamin E and  
multivitamin.  

 
Discharge Medications:
1. Actigall 300 mg Capsule Sig: One (1) Capsule PO twice a day: 
please take for 6 months.
Disp:*60 Capsule(s)* Refills:*5*
2. Zantac 15 mg/mL Syrup Sig: Ten (10) ml PO twice a day: please 
take for one month.
Disp:*600 ml* Refills:*0*
3. Roxicet ___ mg/5 mL Solution Sig: ___ ml PO every ___ 
hours as needed for constipation.
Disp:*600 ml* Refills:*0*
4. Colace 50 mg/5 mL Liquid Sig: Ten (10) ml PO twice a day as 
needed for constipation.
Disp:*500 ml* Refills:*0*
5. Metformin 500 mg/5 mL Solution Sig: 500mg 5 ml PO twice a 
day.
Disp:*300 ml* Refills:*2*
6. Medications
Please take ___ of your metformin dose, do not take glucotrol, 
ecotrin, or vitamin E. Please monitor your fingerstick blood 
sugars four times a day and log. Make an appointment with your 
primary care in one week and have him/her review this log and 
adjust your diabetic medications.
7. medication
Keflex ___ po/liquid qid  X  7 days. Script called in.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Obesity
Secondary Diagnoses: Type 2 diabetes, dyslipidemia, obstructive 
sleep apnea on CPAP, osteoarthritis/DJD, history of gout (left 
big toe), fatty liver, colonic polyps 

 
Discharge Condition:
Stable

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest pain, shortness of breath, severe abdominal pain, 
pain unrelieved by your pain medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

Diet: Stay on Stage III diet until your follow up appointment. 
Do not self advance
diet, do not drink out of a straw or chew gum.

Medication Instructions:
Resume your home medications, CRUSH ALL PILLS.
You will be starting some new medications:
1.  You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST  refrain from such activities while 
taking these medications.
2. You should begin taking a Flintstones chewable complete 
multivitamin. No gummy vitamins.
3. You will be taking Zantac liquid ___ mg twice daily for one 
month. This medicine prevents gastric reflux.
4. You will be taking Actigall 300 mg twice daily for 6 months. 
This medicine prevents you from having problems with your 
gallbladder.
5. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern.

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You may shower, no tub baths or swimming. 

If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___